Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
heparin
 
Attending: ___
 
Chief Complaint:
Febrile in clinic, fatigue, bacteremia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old M diagnosed with AML with 
unfavorable prognosis. Underwent MUD allogenic stem cell 
transplant on ___. Unfortunately on 
day +100 had cytogenetic relapse. There was no improvement in 
his counts after withdrawal of immunosuppression, bone marrow 
biopsy revealed morphologic relapse on ___. His course was 
c/b graft failure/necrotic marrow and now relapse. Allo 
admission ___ notable for HIT, stomatitis, CMV/EBV viremia, RUE 
basilic vein thrombosis ___ PICC (not anticoagulated due to low 
plts), tacrolimus-induced HTN, febrile neutropenia, IJ site 
cellulitis.  Bone marrow aspirate ___ neg for blasts on 
aspirate but bone marrow ___ w/ 4% blasts. Bone marrow 
chimerism down to 90%. New peripheral blasts detected as of 
___, c/w recurrence. 

Recent events notable for: tacrolimus has been weaned off w/o 
e/o GVHD. Has been CMV/EBV viremic in the past, s/p 
valgancyclovir and Rituxan, both since resolved. 

He received one cycle of decitabine and is now C1D24. Yesterday 
he presented to clinic for planned DLI. His temperature was 
101.3 in the clinic, he denied any symptoms and said he felt 
fine and did not want to be admitted even though he was 
counseled about the risks of refusing admission. Blood cultures 
were drawn and vanc 1 gram and cefepime 2 grams were given as 
one time dosages. The following day, ___, his blood culture 
returned positive for Gram positive cocci in pairs and chains. 
He was notified of these results and returned to ___ Emergency 
Department for further medical evaluation and treatment.

Mr. ___ remains transfusion dependent, requires PLT three 
times per week, PRBC once a week, and he is profoundly 
neutropenic.

Of note, the pt has outpt providers from multiple institutions. 
His psychiatrist is Dr. ___ at ___, ___. He is 
unsure of the name of his ___ clinic. Per his PCP's 
office, their records have him receiving methadone as of last 
fall from Dr. ___, ___ Substance 
Abuse ___, ___. Both of the above providers were 
called and messages left.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
He was diagnosed in ___ with acute leukemia. At diagnosis, 
he was transferred from an outside facility to ___ 
___ with severe pancytopenia, night sweats and bone
pain.  He had extensive workup including diagnostic imaging,
multiple bone marrow biopsies and ultimately a splenectomy.  He
was found to have extensive bone marrow necrosis, reactive
histiocytic infiltration with scattered blasts.  However, upon
cytogenetic testing, he was found to have a complex karyotype.
This being most consistent with acute myeloid leukemia with
unfavorable prognosis.  He received standard induction
chemotherapy of 7 & 3 on ___.  Repeat bone marrow 
biopsies
did not show any evidence of leukemia by FISH as well as
karyotype was now normal. He was discharged from the hospital on
___.
At that point discussion with the patient and family members and
among the ___ team it was decided to proceed with a 
myeloablative
matched unrelated donor allogeneic stem cell transplant as this
would give him best possible treatment option for prolonged
remission given his poor prognostic features at diagnosis - 
occurred ___.
Bone marrow aspirate ___ neg for blasts on aspirate but bone 
marrow ___ w/ 4% blasts. Bone marrow chimerism down to 90% 
(from 99%). New peripheral blasts detected as of ___, c/w 
recurrence.

PAST MEDICAL/SURGICAL HISTORY:  
AML with poor prognostic factors as above
Depression/anxiety 
PTSD 
Back pain  
Polysubstance abuse with Methadone maintenance
CMV/EBV viremia
HIT
H/o RUE basilic vein thrombosis in the setting of ___

 
Social History:
___
Family History:
No blood disorders or malignancies in the family. Mother with 
depression.
 
Physical Exam:
ADMISSION EXAM
==============
VITALS: 98, 155/95, 110, 16, 96 on RA.
HEENT: no thrush, moist mucous membranes, no lesions
Lungs: Clear to AP, normal excursion
Cor: S1S2 no MRG
Abdomen: Soft Non-tender, No HSM, NABS, well healed midline 
scar,
minimal induration in epigastric area
LN: No AC, PC, Submandibular, submental axillary, inguinal. 
Neuro: AAOx3 , normal affect, strength ___ all extremities.
Intact to LT. 
Skin: No lesions, tunneled line left anterior chest, no 
erythema,
no tenderness. bilateral lower extremity pitting edema, no calf
tenderness, petechia on both shins

DISCHARGE EXAM
==============
Patient expired
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:13PM BLOOD WBC-1.2* RBC-2.40* Hgb-7.6* Hct-23.0* 
MCV-96 MCH-31.6 MCHC-32.9 RDW-17.3* Plt Ct-6*#
___ 12:13PM BLOOD Neuts-9* Bands-1 Lymphs-59* Monos-23* 
Eos-2 Baso-0 Atyps-3* ___ Myelos-1* Promyel-2* NRBC-3*
___ 12:13PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL
___ 12:13PM BLOOD Plt Smr-RARE Plt Ct-6*#
___ 11:05AM BLOOD ___ PTT-26.5 ___
___ 11:05AM BLOOD ___
___ 12:13PM BLOOD Glucose-92 UreaN-24* Creat-0.8 Na-129* 
K-4.9 Cl-92* HCO3-23 AnGap-19
___ 12:13PM BLOOD ALT-16 AST-26 LD(LDH)-271* AlkPhos-93 
TotBili-0.6
___ 12:13PM BLOOD TotProt-4.5* Albumin-2.5* Globuln-2.0 
Calcium-8.3* Phos-3.7 Mg-1.5*

DISCHARGE LABS
==============
Patient expired

 
Brief Hospital Course:
___ M with AML with complex cytogenetics, MUD allotransplant with 
FLU/BU4 conditioning D0 ___, cytogenetic relapse on ___ 
with confirmation on ___ ___ admitted with febrile 
neutropenia, ultimately persistent VRE bacteremia. 
Mr. ___ AML progressed during his protracted hospital 
stay with steady deterioration in his state of health throughout 
in spite of aggressive treatment. As his blast count reached 
20%, his mental and metabolic status deteriorated together with 
his pain. In setting of agitated delirium patient underwent fall 
with head strike resulting in subdural hematoma. Goals of care 
evolved towards comfort measures only in the following days. 
Patient passed comfortably next to his family. 

# Neutropenic fever without localizing symptoms - He returned to 
___ on ___ when he was notified that ___ in pairs. Speciation 
and sensitivity revealed VRE, ultimately patient received 
daptomycin and ampicillin. Continued to spike and having 
positive blood cultures since the first positive culture in 
spite of appropriate dosed therapy based on microbial 
sensitivities. TEE no longer part of plan given aggressive 
terminal stage illness.  

#Subdural hematoma: Secondary to fall in setting of delirium and 
thrombocytopenia. Received seizure prophylaxis palliatively.

#Persistent hypoglycemia: Likely due to poor po intake and liver 
metabolic failure. Refractory to D10W gtt at 200mL/h. This also 
worsens his hyponatremia and volume status. Getting D50 amps 
intermittently.

#Anion gap metabolic acidosis: Likely secondary to intravascular 
depletion in the setting of overall fluid overload. Reflecting 
acutely decompensated inflammatory state due perhaps to 
infection and malignancy. 

# Relapsed AML with complex cytogenetics, s/p induction
with 7+3, post allogeneic transplant MUD (___), Flu/Bu
conditioning, currently has persistent malignant clone and
circulating blasts. He is clinical trial ___. As per the 
protocol he continues to be on study, only second transplant 
will require for him to come off. Severe pancytopenia with ANC 
100, PLT 6 , HCT 23.0 PLT transfusion ___. He has no evidence 
of GVHD off immunosuppression since ___. On ___ concern 
for rising peripheral blast count to 14% out of leukocyte count 
of 500. Blast count continued to rise, reaching 20% on ___.  
Disease considered refractory and terminal, patient ultimately 
made comfort measures only. 

# Pain syndrome/ bone marrow infarction - Chronic, continue home 
medications. Diffuse but mentions legs and left arm more than 
other body parts. Patient's pain continued worsening during the 
admission in spite of high dose narcotics including methadone, 
fentanyl patch and oxycodone. Pain likely in close correlation 
with progression of primary disease. Ultimately patient could 
not tolerate POs and his mental status was not appropriate for 
PCA. Placed on hydromorphone drip at narcotic equivalent dose. 
Patient was comfortable when he passed. 

# Depression/Anxiety - Chronic. Was continued on  quetiapine, 
lithium and bupropion 

# PUD - Severe epigastric pain clinically suggestive of PUD, was 
kept on  H2 blocker and PPI.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atovaquone Suspension 1500 mg PO DAILY 
2. BuPROPion 100 mg PO BID 
3. Docusate Sodium 100 mg PO BID constipation 
4. Fluconazole 400 mg PO Q24H 
5. Gabapentin 900 mg PO Q8H 
6. Lithium Carbonate 150 mg PO HS 
7. Senna 8.6 mg PO BID 
8. Simethicone 80 mg PO TID:PRN gas 
9. Ursodiol 300 mg PO BID 
10. Polyethylene Glycol 17 g PO BID 
11. Magnesium Oxide 800 mg PO DAILY 
12. Methadone 115 mg PO DAILY 
13. Ranitidine 300 mg PO DAILY 
14. Multivitamins W/minerals 1 TAB PO DAILY 
15. Pantoprazole 40 mg PO Q12H 
16. ValGANCIclovir 450 mg PO BID 
17. Fentanyl Patch 100 mcg/h TD Q72H 
18. Fentanyl Patch 25 mcg/h TD Q72H 
19. OxycoDONE (Immediate Release)  20 mg PO Q4H:PRN pain 
20. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
21. ClonazePAM 0.5 mg PO DAILY:PRN anxiety 
22. Ondansetron 4 mg PO Q8H:PRN nausea 
23. Dexamethasone 2 mg PO QAM 
24. Ciprofloxacin HCl 500 mg PO Q12H 
25. Allopurinol ___ mg PO DAILY 

 
Discharge Medications:
Patient expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
#Vancomycin Resistant Enterococcus Bacteremia
#Refractory hypoglycemia
#Subdural Hematoma
#Relapsed and refractory Acute Myelogenous Leukemia 

 
Discharge Condition:
Patient expired

 
Discharge Instructions:
Patient expired
 
Followup Instructions:
___